US05395815
Preparation Example 3: Preparation of 4'-hydroxy-4-n-octadecyloxybenzanilide (Example 12)
Under a nitrogen atmosphere, 4-n-octadecyloxybenzoic acid (100.0 g) and dimethylformamide (5ml) were suspended in chloroform (800 ml) and thereto was added dropwise thionyl chloride (33.4 g). After completion of the addition, the suspension was refluxed with heating for 1 hour to prepare the corresponding acid chloride. The reaction mixture was cooled and thereto were added p-aminophenol (30.8 g) and triethylamine (28.6 g), followed by refluxing with heating for 2 hours. The reaction mixture was cooled to room temperature to precipitate a white crystal. This crystal was filtered off under reduced pressure and washed with distilled water and then recrystallized from isopropanol to obtain 98.7 g of the desired product. Yield 80%; m.p. 193° C.

reactant | 4-n-octadecyloxybenzoic acid | 100.0 g | C(CCCCCCCCCCCCCCCCC)OC1=CC=C(C(=O)O)C=C1 | C25H42O3
reactant | dimethylformamide | 5ml | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 33.4 g | S(=O)(Cl)Cl | Cl2OS
reactant | p-aminophenol | 30.8 g | C1=CC(=CC=C1N)O | C6H7NO
solvent | chloroform | 800 ml | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | 28.6 g | C(C)N(CC)CC | C6H15N
product | 4'-hydroxy-4-n-octadecyloxybenzanilide | 98.7 g, Yield 80% | OC1=CC=C(NC(C2=CC=C(C=C2)OCCCCCCCCCCCCCCCCCC)=O)C=C1 | C31H47NO3
